US07906502B2
tert-Butyl (4-{(E)-[(4-chlorophenyl)imino]methyl}phenoxy)acetate
tert-Butyl (4-formylphenoxy)acetate (17.4 g, 73.4 mmol) was dissolved in dry toluene (120 mL) and 4-chloroaniline (9.37 g, 73.4 mmol) was added. The mixture was refluxed in a Dean-Stark apparatus for 20 hours, cooled and concentrated under reduced pressure. Hexane was added and a precipitate formed. This precipitate was filtered, washed twice with cold hexane and dried. This afforded the title compound.

reactant | tert-Butyl (4-formylphenoxy)acetate | 73.4 mmol, 17.4 g | C(=O)C1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C13H16O4
reactant | 4-chloroaniline | 73.4 mmol, 9.37 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl (4-{(E)-[(4-chlorophenyl)imino]methyl}phenoxy)acetate | ClC1=CC=C(C=C1)\N=C\C1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C19H20ClNO3
